US04287195
A mixture of 4 parts of 4-[4-(4,5-dihydro-5-methoxy-2-thiazolyl)-1-piperazinyl]phenol and 150 parts of a hydrobromic acid solution 48% is stirred and refluxed for 12 hours. The reaction mixture is evaporated and the residue is dissolved in water. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 2.5 parts (68%) of 4-[4-(2-thiazolyl)-1-piperazinyl]phenol; mp. 169.9° C.

reactant | 4-[4-(4,5-dihydro-5-methoxy-2-thiazolyl)-1-piperazinyl]phenol | COC1CN=C(S1)N1CCN(CC1)C1=CC=C(C=C1)O | C14H19N3O2S
reactant | hydrobromic acid | Br | BrH
product | 4-[4-(2-thiazolyl)-1-piperazinyl]phenol | 68% | S1C(=NC=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C13H15N3OS
